*Analog voltage model of AND gate

V1 A 0 PULSE(0 5 0 1n 1n 10m 20m)
V2 B 0 PULSE(0 5 0 1n 1n 20m 40m)

*Behavioral AND gate
B1 OUT 0 V = {5*u(V(A)-2.5)*u(V(B)-2.5)}

.tran 0.1m 100m

.control
run
plot v(A) v(B) v(OUT)
.endc

.end
 
