CMOS Inverter
Vdd vdd 0 5
Vin in 0 PULSE(0 5 1n 1n 1n 10n 20n)

M1 out in vdd vdd p 
M2 out in 0 0 n 

.model p pmos
.model n nmos

.tran 0.1n 40n

.control
run
plot v(in) v(out)
.endc
.end
